US08114893B2
Step 1: Preparation of methyl 3-(benzyloxy)-6-bromopicolinate (29A)
Benzyl bromide (3.87 g, 22.6 mmol), was added to a suspension of methyl 6-bromo-3-hydroxypicolinate (5.00 g, 21.6 mmol) and K2CO3 (5.96 g, 43.1 mmol) in anhydrous DMF (40 mL). The reaction mixture was heated at 60° C. for 18 hours, cooled to rt, and poured into an ice/water mixture. After stirring for 2.5 hours, the precipitate was collected by filtration, washed with water, and dried to provide the desired product methyl 3-(benzyloxy)-6-bromopicolinate (29A).

reactant | Benzyl bromide | 22.6 mmol, 3.87 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 6-bromo-3-hydroxypicolinate | 21.6 mmol, 5.00 g | BrC1=CC=C(C(=N1)C(=O)OC)O | C7H6BrNO3
reactant | K2CO3 | 43.1 mmol, 5.96 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | methyl 3-(benzyloxy)-6-bromopicolinate | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)Br)C(=O)OC | C14H12BrNO3
